US06713471B1
2-Bromo-5-fluorobenzoic acid (4.60 g, 0.02 mol), N,O-Dimethylhydroxylamine hydrochloride (2.05 g, 0.02 mol), carbon tertabromide (6.9 g, 0.02 mol) was added to mixture of methylene chloride (100 mL) and triethylamine (2.9 mL, 0.02 mol). Triphenylphospine (5.53 g, 0.02 mol) was added to the solution over 1 hour and stirred for another 1 hour. The solution was concentrated to an oil. Hexanes (100 mL) and Ethyl Acetate (100 mL) were added to the oil and stirred for 1 hour then filtered. The filtrate was concentrated and the residue was purified by chromatography (Hexanes/Ethyl Acetate) on silica gel to afford 2-bromo-5-fluoro-N-methoxy-N-methylbenzamide as a foamy white solid in 73% yield. 1H NMR (CDCl3, 500 MHz) δ3.00-3.98 (m, 6 H), 6.97-7.08 (m, 2H), 7.51-7.54 (m, 1H).

reactant | 2-Bromo-5-fluorobenzoic acid | 0.02 mol, 4.60 g | BrC1=C(C(=O)O)C=C(C=C1)F | C7H4BrFO2
reactant | N,O-Dimethylhydroxylamine hydrochloride | 0.02 mol, 2.05 g | Cl.CNOC
reactant | triethylamine | 0.02 mol, 2.9 mL | C(C)N(CC)CC | C6H15N
reactant | Triphenylphospine | 0.02 mol, 5.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-5-fluoro-N-methoxy-N-methylbenzamide | 73% yield | BrC1=C(C(=O)N(C)OC)C=C(C=C1)F | C9H9BrFNO2
